US07276603B2
To a stirred solution of 2-(5-chloro-1-benzofuran-3-yl)ethanol (980 mg, 5 mmol) in anhydrous THF (50 ml), triphenylphosphine (1.572 g, 6 mmol), iodine (1.518 g, 6 mmol) and imidazole (408 mg, 6 mmol) were added at room temperature. The reaction mixture was stirred at room temperature for 4 hrs and quenched with water. It was then extracted with chloroform, washed well with 5% Na2S2O3 and the organic layer dried over anhydrous MgSO4. It was filtered and concentrated. The residue was purified by silica-gel column chromatography by eluting it with 30% ethyl acetate:hexane. The product, 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide, was obtained as brown liquid; Yield: 1.2 g (80%); (M+H): 306.

reactant | 2-(5-chloro-1-benzofuran-3-yl)ethanol | 5 mmol, 980 mg | ClC=1C=CC2=C(C(=CO2)CCO)C1 | C10H9ClO2
reactant | triphenylphosphine | 6 mmol, 1.572 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 6 mmol, 1.518 g | II | I2
reactant | imidazole | 6 mmol, 408 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide | ClC=1C=CC2=C(C(=CO2)CCI)C1 | C10H8ClIO
